US07323472B2
4-Chloro-6-(1-ethyl-propylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde
Prepared as described above in Example 2 starting from 4,6-dichloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde and 3-pentylamine to give the title compound 4-chloro-6-(1-ethyl-propylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde. 1H-NMR: δ 0.92 (t, 6H, J=7.3 Hz), 1.50-1.74 (m, 4H), 2.52 (s, 3H), 4.22 (m, 1H), 9.21 (br s, 1H), 10.33 (s, 1H). LC MS (m/e)=274 (MH+).

reactant | 4,6-dichloro-2-methylsulfanyl-pyrimidine-5-carbaldehyde | ClC1=NC(=NC(=C1C=O)Cl)SC | C6H4Cl2N2OS
reactant | 3-pentylamine | CCC(CC)N | C5H13N
product | 4-chloro-6-(1-ethyl-propylamino)-2-methylsulfanyl-pyrimidine-5-carbaldehyde | ClC1=NC(=NC(=C1C=O)NC(CC)CC)SC | C11H16ClN3OS
